US07432378B2
4-(3-Iodo-propoxy)-2-methyl-benzaldehyde. 1-Bromo-3-chloropropane (5.03 g, 32.0 mmol, 1.0 equiv) was added to a solution of 2-methyl-4-hydroxybenzaldehyde (4.35 g, 32.0 mmol, 1.0 equiv) and K2CO3 (8.8 g, 64.0 mmol, 2.0 equiv) in acetonitrile (75 mL). The mixture was heated at 65° C. for 16 h, then cooled to rt and filtered through diatomaceous earth. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, 10% ethyl acetate in hexanes) to afford 5.58 g (82%) of 4-(3-chloro-propoxy)-2-methyl-benzaldehyde. To a refluxing solution of 4-(3-chloro-propoxy)-2-methyl-benzaldehyde in acetone (100 mL), KI (58 g) was added portion wise over 3 d. The mixture was cooled to rt and water was added. The aqueous mixture was extracted three times with ethyl acetate and the combined extracts were dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography (silica gel, 5% ethyl acetate in hexanes) to afford 6.13 g (77%) of the title compound. 1H NMR (400 MHz, CD3OD): 10.1 (s, 1H), 7.75 (d, J=8.6 Hz, 1H), 6.84 (dd, J=8.6, 2.5 Hz, 1H), 6.74 (d, J=2.2 Hz, 1H), 4.11 (t, J=5.8 Hz, 2H), 3.36 (t, J=6.7 Hz, 2H), 2.65 (s, 3H), 2.29 (m, 2H).

reactant | 4-(3-Iodo-propoxy)-2-methyl-benzaldehyde | ICCCOC1=CC(=C(C=O)C=C1)C | C11H13IO2
reactant | 1-Bromo-3-chloropropane | 32.0 mmol, 5.03 g, 1.0 equiv | BrCCCCl | C3H6BrCl
reactant | 2-methyl-4-hydroxybenzaldehyde | 32.0 mmol, 4.35 g, 1.0 equiv | CC1=C(C=O)C=CC(=C1)O | C8H8O2
reactant | K2CO3 | 64.0 mmol, 8.8 g, 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 4-(3-chloro-propoxy)-2-methyl-benzaldehyde | 5.58 g, 82% | ClCCCOC1=CC(=C(C=O)C=C1)C | C11H13ClO2
